US07897600B2
(4-chloro-2-fluorophenyl)(6-chloro-2-methyl-8-(morpholinomethyl)imidazo[1,2-b]pyridazin-3-yl)methanone
Add ethanol (12 L), (4-chloro-2-fluorophenyl)(6-chloro-2-methylimidazo[1,2-b]pyridazin-3-yl)methanone (897.70 g, 2.77 mol) and bis(2,4-pentanedionato)oxovanadium (IV) (146.81 g, 553.67 mmol) to a reaction vessel with a nitrogen atmosphere. Add an ethanol (6 L) solution of 4-methylmorpholine 4-oxide (3.89 kg, 33.21 mol) drop-wise over 150 min keeping the reaction temperature at 23-33° C.; then heat the reaction at 40° C. for 48 h. Cool the reaction and concentrate by removal of solvent (13 L). Filter the resulting mixture, rinse the filter cake with hexane (1 L) and then dry. (728 g, 66.25%; mp 145-147° C.; M+=423).

reactant | (4-chloro-2-fluorophenyl)(6-chloro-2-methylimidazo[1,2-b]pyridazin-3-yl)methanone | 2.77 mol, 897.70 g | ClC1=CC(=C(C=C1)C(=O)C1=C(N=C2N1N=C(C=C2)Cl)C)F | C14H8Cl2FN3O
reactant | 4-methylmorpholine 4-oxide | 33.21 mol, 3.89 kg | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | bis(2,4-pentanedionato)oxovanadium (IV) | 553.67 mmol, 146.81 g | CC(=O)CC(=O)C.CC(=O)CC(=O)C.O=[V]
solvent | ethanol | 6 L | C(C)O | C2H6O
solvent | ethanol | 12 L | C(C)O | C2H6O
product | (4-chloro-2-fluorophenyl)(6-chloro-2-methyl-8-(morpholinomethyl)imidazo[1,2-b]pyridazin-3-yl)methanone | ClC1=CC(=C(C=C1)C(=O)C1=C(N=C2N1N=C(C=C2CN2CCOCC2)Cl)C)F | C19H17Cl2FN4O2
